US07504401B2
[3-Adamantan-1-yl-4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-pyridin-3-yl-methanol (55 mg, 0.112 mmol) was dissolved in methylene chloride. The Dess Martin periodane (0.104 g, 0.224 mmol) was then added to the reaction mixture. The reaction was complete within 10 min and was then diluted with ether. The organic layer was washed with Na2S2O4 (2×30 mL) followed by NaHCO3 (2×30 mL) followed by brine (1×30 mL) The organic layers were combined, dried with Na2SO4 and then evaporated to give [3-adamantan-1-yl-4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-pyridin-3-yl-methanone, which was deprotected without further purification. The deprotection was carried out as described for Example 62, except the reaction was complete after 10 min. The product was purified by chromatography to give 17 mg of 3-adamantan-1-yl-4-hydroxy-phenyl)-pyridin-3-yl-methanone as a white solid. 1H NMR (400 MHz, methanol-d4/CDCl3): δ 8.81 (d, J=2.1 Hz, 1H), 8.68 (dd, J=5.0, 1.7 Hz, 1H), 8.07 (td, J=8.0, 2.0 Hz, 1H), 7.70 (d, J=2.3 Hz, 1H), 7.52 (dd, J=5.0, 2.9 Hz, 1H), 7.48 (dd, J=8.6, 2.5 Hz, 1H), 6.80 (d, J=8.4 Hz, 1H), 2.10 (d, J=2.9 Hz, 6H), 2.02 (s, 3H), 1.74 (t, J=2.8 Hz, 6H)

reactant | [3-Adamantan-1-yl-4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-pyridin-3-yl-methanol | 0.112 mmol, 55 mg | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2O[Si](C)(C)C(C)(C)C)C(O)C=2C=NC=CC2 | C28H39NO2Si
reactant | Dess Martin | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | [3-adamantan-1-yl-4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-pyridin-3-yl-methanone | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2O[Si](C)(C)C(C)(C)C)C(=O)C=2C=NC=CC2 | C28H37NO2Si
